US05478496
46.8 g of 4-n-decyloxybenzoic acid hydrazide are dissolved in 320 ml of pyridine. 23.7 ml of heptafluorobutyric acid chloride are added dropwise at room temperature and the mixture is stirred for a further 11/2 hours. It is then poured on 1600 ml of ice/water, and the crystals are filtered off with suction and rinsed with water. Recrystallization from toluene gives 39.9 g of N-(4-n-decyloxybenzoyl)-N'-heptafluorobutyrylhydrazine of melting point 88° C.

reactant | 4-n-decyloxybenzoic acid hydrazide | 46.8 g | C(CCCCCCCCC)OC1=CC=C(C(=O)NN)C=C1 | C17H28N2O2
reactant | heptafluorobutyric acid chloride | 23.7 ml | FC(C(C(C(=O)Cl)(F)F)(F)F)(F)F | C4ClF7O
solvent | pyridine | 320 ml | N1=CC=CC=C1 | C5H5N
product | N-(4-n-decyloxybenzoyl)-N'-heptafluorobutyrylhydrazine | 39.9 g | C(CCCCCCCCC)OC1=CC=C(C(=O)NNC(C(C(C(F)(F)F)(F)F)(F)F)=O)C=C1 | C21H27F7N2O3
